US07354933B2
5,5-dimethyl-1-(3-chloro-6-methoxyquinol-4-ylmethyl)-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione
The product is prepared according to the procedure described in Example 59, starting with 180 mg of methyl 2-methyl-2-[(3-chloro-6-methoxyquinol-4-ylmethyl)amino]propanoate instead of methyl 2-methyl-2-[(quinol-4-ylmethyl)amino]propanoate used in Example 59 and 267 mg of 4-(trifluoromethoxy)phenyl isocyanate. After purification by flash chromatography on a column (SiO2, 80/20 cyclohexane/EtOAc by volume as eluent, Ar), 137 mg of the expected product are obtained.

reactant | methyl 2-methyl-2-[(3-chloro-6-methoxyquinol-4-ylmethyl)amino]propanoate | 180 mg | CC(C(=O)OC)(C)NCC1=C(C=NC2=CC=C(C=C12)OC)Cl | C16H19ClN2O3
reactant | 4-(trifluoromethoxy)phenyl isocyanate | 267 mg | FC(OC1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO2
product | 5,5-dimethyl-1-(3-chloro-6-methoxyquinol-4-ylmethyl)-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione | CC1(C(N(C(N1CC1=C(C=NC2=CC=C(C=C12)OC)Cl)=O)C1=CC=C(C=C1)OC(F)(F)F)=O)C | C23H19ClF3N3O4
